US05935972
6-Methoxy-5-pyridin-4-ylbenzofuran-7-carbaldehyde (240 mg)
From 5bromo-6-methoxybenzofuran-7-carbaldehyde (350 mg) and pyridine-4-boronic acid (0.21g).

reactant | 5bromo-6-methoxybenzofuran-7-carbaldehyde | 350 mg | BrC=1C(=C(C2=C(C=CO2)C1)C=O)OC | C10H7BrO3
reactant | pyridine-4-boronic acid | 0.21g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 6-Methoxy-5-pyridin-4-ylbenzofuran-7-carbaldehyde | COC1=C(C2=C(C=CO2)C=C1C1=CC=NC=C1)C=O | C15H11NO3
